US05428043
1,2,3,4-tetrahydro-2-[[1-(phenylmethyl)-4-piperidinyl]methylene]cyclopent[b]indol-1-one
To a mixture of 1,2,3,4-tetrahydrocyclopent[b]-indol-1-one (440 mg, 2.6 mmol) and 1-benzylpiperidine-4-carboxaldehyde (581 mg, 2.86 mmol) in 90 ml dry THF was added 5.4 mmol of lithium diisopropylamide at -78° C. The mixture was stirred at -78° C. for 30 minutes, then warmed up to 0° C. for 1.5 hours, and then to r.t. for 15 minutes. Acetic anhydride (0.265 g, 2.6 mmol) was added, the mixture was stirred at r.t. for 1.5 hours and quenched ammonium chloride, water and extracted with chloroform. The organic layer was dried, concentrated, and purified through silica gel to give the title compound. 1HNMR (CDCl3)δ 1.45-1.7 (m, 3H), 1.8-2.3 (m, 4H), 2.8-3.0 (m, 2H), 3.46 (s, 2H), 3.55 (s, 2H), 6.5 (m, 1H), 7.1-7.4 (m, 8H), 7.9 (m, 1H), 9.2 (s, 1H) ppm.

reactant | 1,2,3,4-tetrahydrocyclopent[b]-indol-1-one | 2.6 mmol, 440 mg | C1(CCC=2NC=3C=CC=CC3C21)=O | C11H9NO
reactant | 1-benzylpiperidine-4-carboxaldehyde | 2.86 mmol, 581 mg | C(C1=CC=CC=C1)N1CCC(CC1)C=O | C13H17NO
reactant | lithium diisopropylamide | 5.4 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | Acetic anhydride | 2.6 mmol, 0.265 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | 1,2,3,4-tetrahydro-2-[[1-(phenylmethyl)-4-piperidinyl]methylene]cyclopent[b]indol-1-one | C1(=CC=CC=C1)CN1CCC(CC1)C=C1C(C2=C(NC=3C=CC=CC23)C1)=O | C24H24N2O
